US05324804
I.4. 3,5-Bis(2-tetrahydropyranyloxy)styrene
0.5 ml of concentrated hydrochloric acid is added to 80 g (587 mmol) of 3,5-dihydroxystyrene in 300 g of dihydropyran and the reaction mixture is stirred for 2 h at 40° C. The mixture is then poured into ice-water and extracted twice with ether. The organic phase is washed three times at 0° C. with 1N NaOH, dried, and concentrated by evaporation. The residue is purified by column chromatography (silica gel, hexane/ethyl acetate 4:1), giving 110 g (62%) of a viscous liquid.

reactant | hydrochloric acid | 0.5 ml | Cl | ClH
reactant | 3,5-dihydroxystyrene | 587 mmol, 80 g | OC=1C=C(C=C)C=C(C1)O | C8H8O2
reactant | dihydropyran | 300 g | O1CCCC=C1 | C5H8O
product | 3,5-Bis(2-tetrahydropyranyloxy)styrene | 110 g, 62% | O1C(CCCC1)OC=1C=C(C=C)C=C(C1)OC1OCCCC1 | C18H24O4
